US05143633
EXAMPLE H: 2-Ethylhexylamine/molybdenum complex
The procedure is as in Example B, but 9.9 g of 98% 2-ethylhexylamine are introduced in the course of 20 minutes into an aqueous solution containing 15.44 g of sodium molybdate and kept at 60° C. After heating at 60° C. for 45 minutes, the mixture is acidified with 23.1 g of 30% sulphuric acid, before washing and drying the product. The latter is in the form of a white solid containing 36.8% of molybdenum and 4.38% of nitrogen.

reactant | 2-ethylhexylamine | 9.9 g | C(C)C(CN)CCCC | C8H19N
reactant | sodium molybdate | 15.44 g | [O-][Mo](=O)(=O)[O-].[Na+].[Na+]
reactant | sulphuric acid | 23.1 g | S(O)(O)(=O)=O | H2O4S
product | 2-Ethylhexylamine molybdenum | C(C)C(CN)CCCC.[Mo] | InChI=1S/C8H19N.Mo/c1-3-5-6-8(4-2)7-9;/h8H,3-7,9H2,1-2H3;
